US04435588
Preparation of 5-(chloroacetoxy)-3-oxapentyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate
5-Hydroxy-3-oxapentyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate (4 g, 0.009 mole) and triethylamine (2 ml) were dissolved in 200 ml of anhydrous ether in a 500 ml round-bottomed flask. Chloroacetyl chloride (5 g, 0.44 mole) was added dropwise. The solution was held at reflux for 4.5 hrs. A large amount of salt precipitated. The ether solution was washed two times with sodium bicarbonate and three times of water, dried over CaSO4 and concentrated to 3.6 g 5-(chloroacetoxy)3-oxapentyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate as a gum; nmr (CDCl3) δ 3.62-3.93 (m, 4H), 4.09 (s, 3H), 4.27-4.66 (m, 4H), 6.96-8.22 (m, 6H); ir (CHCl3) 1754, 1768 Cm-1.

reactant | 5-Hydroxy-3-oxapentyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | 0.009 mole, 4 g | ClC1=C(OC=2C=CC(=C(C(=O)OCCOCCO)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C18H15ClF3NO7
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | Chloroacetyl chloride | 0.44 mole, 5 g | ClCC(=O)Cl | C2H2Cl2O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 5-(chloroacetoxy)-3-oxapentyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | ClC1=C(OC=2C=CC(=C(C(=O)OCCOCCOC(CCl)=O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C20H16Cl2F3NO8
